### PR TITLE
Definition of Homotopical Categories

### PR DESCRIPTION
**Pull request by mortberg**
Definition of homotopical categories and a basic result stating that any category is a homotopical one taking the weak equivalences to be the isos.
 
Written by @AntoineAllioux during the 2nd UniMath school

### CODE REVIEW

File: UniMath/CategoryTheory/HomotopicalCategory.v [hunk 1]
```diff
@@ -0,0 +1,258 @@
...
+
+  - Properties:
+    - two_of_six_is_prop
+    - two_of_three_is_prop
+    - is_homotopical_is_prop
+    - is_homotopical_functor_is_prop
+    - is_minimal_is_prop
+
+  - Results:
+    - two_of_six_implies_two_of_three
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/HomotopicalCategory.v]: turn them into links in HTML:
```suggestion
    - [two_of_six_implies_two_of_three]
```

File: UniMath/CategoryTheory/HomotopicalCategory.v [hunk 2]
```diff
@@ -0,0 +1,258 @@
...
+    - cats_minimal_homotopical (any category is a minimal homotopical category)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/HomotopicalCategory.v]:
```suggestion
    - [cats_minimal_homotopical] (any category is a minimal homotopical category)
```

File: UniMath/CategoryTheory/HomotopicalCategory.v [hunk 3]
```diff
@@ -0,0 +1,258 @@
...
+    {g  : y --> z}
+    {h  : z --> t}
+    (gf : W x z (f · g))
+    (hg  : W y t (g · h)),
+    (W x y f)
+      × (W y z g)
+      × (W z t h)
+      × (W x t (f · g · h)).
+
+Proposition two_of_six_is_prop {C : category} (W : morph_class C) : isaprop (two_of_six W).
```
Comment (siddharthist) [inline UniMath/CategoryTheory/HomotopicalCategory.v]: We normally just use `Lemma` for this sort of thing.

File: UniMath/CategoryTheory/HomotopicalCategory.v [hunk 4]
```diff
@@ -0,0 +1,258 @@
...
+
+Definition morph_class (C : category) := ∏ (x y : C), hsubtype (x --> y).
+
+Definition category_with_weq := ∑ C : category, morph_class C.
+
+Definition category_with_weq_pr1 (C : category_with_weq) : category := pr1 C.
+
+Coercion category_with_weq_pr1 : category_with_weq >-> category.
+
+Definition two_of_six {C : category} (W : morph_class C) :=
```
Comment (siddharthist) [inline UniMath/CategoryTheory/HomotopicalCategory.v]: I think it's nicer to pack these types together with the proofs that they are propositions as an `hProp`.

File: UniMath/CategoryTheory/HomotopicalCategory.v [hunk 5]
```diff
@@ -0,0 +1,258 @@
...
+Definition is_homotopical (C : category_with_weq) : UU := two_of_six (pr2 C).
+
+Proposition is_homotopical_is_prop (C : category_with_weq) : isaprop (is_homotopical C).
+Proof.
+  apply two_of_six_is_prop.
+Defined.
+
+Definition homotopical_category : UU := ∑ (C : category_with_weq), is_homotopical C.
+
+Definition homotopical_category_pr1 (C : homotopical_category) : category_with_weq := pr1 C.
```
Comment (siddharthist) [inline UniMath/CategoryTheory/HomotopicalCategory.v]: It's better to have descriptive names for these projections.

**Comment by benediktahrens** [comment]
@mortberg @AntoineAllioux : sorry for the slow handling of this PR!
